US07799779B2
a) 3-Cyano-4-methylphenylboronic acid
17.5 ml of n-butyllithium solution (1.6M in hexane) are added dropwise to a solution of 5 g of 5-bromo-2-methylbenzonitrile in 80 ml of dry tetrahydrofuran at −78° C. After stirring at this temperature for 35 minutes, 7.3 ml of triisopropyl borate are added. After one hour, 50 ml of 1N HCl are added to the reaction mixture at −78° C., and the mixture is warmed to room temperature. The phases are separated and the aqueous phase is extracted three more times with 100 ml of diethyl ether each time. The combined organic phases are dried with sodium sulphate, and the solvent is concentrated to 5 ml. The residue is mixed with 150 ml of pentane. The precipitate which has separated out is filtered off with suction and washed twice with pentane. Drying under high vacuum results in 2.85 g of the title compond as a pale yellow solid. Rt=2.98.

reactant | n-butyllithium | 1.6M, 17.5 ml | C(CCC)[Li]
reactant | 5-bromo-2-methylbenzonitrile | 5 g | BrC=1C=CC(=C(C#N)C1)C | C8H6BrN
reactant | triisopropyl borate | 7.3 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-Cyano-4-methylphenylboronic acid | C(#N)C=1C=C(C=CC1C)B(O)O | C8H8BNO2
